US04061656
7-formyl-3-methyl-octa-2,4,6-trien-1-oic acid butyl ester
212.6 G. of 2-formyl-but-2-ene-4-triphenyl-phosphonium chloride and 95 g. of 3-formyl-crotonic acid butyl ester are introduced into 1100 ml. of butanol and treated at 5° C. with a solution of 57 g. of triethylamine in 60 ml. of butanol. The reaction mixture is subsequently stirred for 6 hours at 25° C., then cooled and introduced into water and thoroughly extracted with hexane. The hexane phase is washed first repeatedly with methanol/water (6:4 parts by volume), then with water, dried over sodium sulphate and filtered. The filtrate is isomerized for 12 hours by shaking with iodine. The iodine is removed by the addition of sodium thiosulphate. The filtrate is washed again with water, dried and evaporated under reduced pressure. The remaining 7-formyl-3-methyl-octa-2,4,6-trien-1-oic acid butyl ester boils, after rectification, at 102°-105° C/0.09 mm Hg.

reactant | 3-formyl-crotonic acid butyl ester | C(CCC)OC(\C=C(\C)/C=O)=O | C9H14O3
reactant | butanol | C(CCC)O | C4H10O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 7-formyl-3-methyl-octa-2,4,6-trien-1-oic acid butyl ester | C(CCC)OC(C=C(C=CC=C(C)C=O)C)=O | C14H20O3
